US05734052
Dissolve 1,2,3,4-tetrahydro-2-naphthoic acid (1.0 g, 5.67 mmol) in tetrahydrofuran (40 ml). Add N-methylmorpholine (0.62 ml, 5.67 mmol) and cool to -20° C. Add isobutyl chloroformate (0.73 ml, 5.67 mmol) and stir for 25 minutes. Then add 1,3-di-n-propyl-5,6-diaminouracil (1.28 g, 5.67 mmol, in 5 ml dimethylformamide) and stir the reaction for 5 hours at -20° C. Warm the reaction to room temperature and dilute with diethyl ether (300 ml). Separate the layers and rinse the organic layer with saturated sodium bicarbonate (200 ml), saturated sodium chloride solution (200 ml), dry over anhydrous magnesium sulfate, filter and concentrate. Purify the residue by radial chromatography (2% to 4% to 6% methanol/chloroform, 4 mm plate) to provide 1,2,3,4-tetrahydronaphthalene-2-carboxylic acid (2-amino-4,6-dioxo-3,5-dipropylcyclohex-1-enyl)amide (2.0 g) as a foam.

reactant | 1,2,3,4-tetrahydro-2-naphthoic acid | 5.67 mmol, 1.0 g | C1C(CCC2=CC=CC=C12)C(=O)O | C11H12O2
reactant | N-methylmorpholine | 5.67 mmol, 0.62 ml | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | 5.67 mmol, 0.73 ml | ClC(=O)OCC(C)C | C5H9ClO2
reactant | 1,3-di-n-propyl-5,6-diaminouracil | 5.67 mmol, 5 ml, 1.28 g | C(CC)N1C(=O)N(C(=O)C(=C1N)N)CCC | C10H18N4O2
reactant | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | diethyl ether | 300 ml | C(C)OCC | C4H10O
product | 1,2,3,4-tetrahydronaphthalene-2-carboxylic acid (2-amino-4,6-dioxo-3,5-dipropylcyclohex-1-enyl)amide | 2.0 g | NC1=C(C(C(C(C1CCC)=O)CCC)=O)NC(=O)C1CC2=CC=CC=C2CC1 | C23H30N2O3
